US04882357
1-(Hexyloxy)-2-nitrobenzene, 61.28 g (0.27 mol) is dissolved in 700 ml of methanol, 3 g Raney nickel is added and the mixture exposed to hydrogen gas until the required amount of hydrogen is absorbed. The methanol solution is filtered and concentrated in vacuo and the residue distilled to give 50 g of 2-(hexyloxy)benzenamine; bp 145°-148° C. at 4 mm.

reactant | 1-(Hexyloxy)-2-nitrobenzene | C(CCCCC)OC1=C(C=CC=C1)[N+](=O)[O-] | C12H17NO3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 700 ml | CO | CH4O
catalyst | Raney nickel | 3 g | [Ni] | Ni
product | 2-(hexyloxy)benzenamine | 50 g | C(CCCCC)OC1=C(C=CC=C1)N | C12H19NO
